Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8].[O:9]=[C:10]([H:11])[H:12],-0.696577020809
[H:1][C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-5.34743558685
[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.00115534021
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],2.90172297942
[H:1][O:2][C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],3.16137949148
[H:1][C:2]([H:3])[C:4]#[C:5][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.248312018409997
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3](=[C:4])[O:11][H:12],1.84544271303
[H:12].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.0142531055
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:2][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:3],9.96224727556
[H:13].[O:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-6.41641629245
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:6],4.27879955334
[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:9]([H:10])([H:11])[H:12].[H:8],3.08827453805
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])[H:7].[O:1]=[C:2]([C:3][H:4])[C:8]([H:9])([H:10])[O:11][H:12],8.07133158323
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7].[O:8]=[C:9]([H:10])[H:11],1.72884222789
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:9][H:10].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10],-1.55927796565
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.04842613691
[H:1][C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-0.0191054039005
[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:10][H:11].[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.2337402962
[C:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7][H:8])=[C:9]([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[C:6]=[C:7]([H:8])[H:11].[C:5]#[C:9][H:10],6.1243486666
[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-3.03780750244
[O:1]=[C:2].[O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],0.8871874684200001
[H:1][C:2]([H:3])([H:4])[C:5][C:9]([O:8][C:7]=[O:6])([H:10])[H:11]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][O:8][C:9]1([H:10])[H:11],-1.98891804168
[H:1][C:2]([H:3])[C:4]#[C:5][H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-2.35202156071
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],1.58643284174
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.563521297139999
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:1],3.56130600691
[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9],2.9421820024
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8]>>[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:7][H:8],2.35119283105
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](/[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:11]([H:12])([H:13])[H:14],6.685736361869999
[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:14].[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][H:13],5.23021971585
